US07504508B2
(2S,4R)-1-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-piperidine-3-carboxylic acid amide was prepared from (2S,4R)-1-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-piperidine-3-carboxylic acid. The acid (0.2 g, 0.366 mmol) was dissolved in DMF (3 mL) at room temperature and HOBt (0.74 g, 0.55 mmol), HATU (0.209 g, 0.55 mol), and diisopropylethylamine (0.25 mL,) was added followed by ammonium chloride (0.040 g, 0.74 mmol) and stirred at room temperature for 16 h. The reaction was diluted with ethyl acetate, washed with 1N NaOH, 1N HCl and brine. The organics were dried over MgSO4, filtered and concentrated down. The crude residue was purified HPLC purification.

reactant | (2S,4R)-1-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-piperidine-3-carboxylic acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)N1CC(CCC1)C(=O)O)C)C1=CC=C(C=C1)Cl | C31H32ClN3O4
reactant | HOBt | 0.55 mmol, 0.74 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HATU | 0.55 mol, 0.209 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 0.74 mmol, 0.040 g | [Cl-].[NH4+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-1-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-piperidine-3-carboxylic acid amide | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)N1CC(CCC1)C(=O)N)C)C1=CC=C(C=C1)Cl | C31H33ClN4O3
